US05686445
N-[4-[(6,11-Dihydro-5H-dibenz[b,e]azepin-5-yl)-carbonyl]-2-methoxyphenyl]-2-methyl-5-fluorobenzamide
A mixture of 0.79 g of 5-(3-methoxy-4-amino-benzoyl)-6,11-dihydro-5H-dibenz[b,e]azepine, 0.40 g of N,N-diisopropylethylamine and 0.55 g of 2-methyl-5-fluorobenzoyl chloride in 25 ml of methylene chloride is stirred at room temperature for 18 hours. The reaction mixture is washed with water and saturated NaHCO3, dried (Na2SO4) and passed through a short pad of hydrous magnesium silicate. Hexane is added at the boil to the filtrate to give 1.05 g of the desired product as a solid.

reactant | 5-(3-methoxy-4-amino-benzoyl)-6,11-dihydro-5H-dibenz[b,e]azepine | 0.79 g | COC=1C=C(C(=O)N2C3=C(CC4=C(C2)C=CC=C4)C=CC=C3)C=CC1N | C22H20N2O2
reactant | N,N-diisopropylethylamine | 0.40 g | C(C)(C)N(C(C)C)CC | C8H19N
reactant | 2-methyl-5-fluorobenzoyl chloride | 0.55 g | CC1=C(C(=O)Cl)C=C(C=C1)F | C8H6ClFO
solvent | methylene chloride | 25 ml | C(Cl)Cl | CH2Cl2
product | N-[4-[(6,11-Dihydro-5H-dibenz[b,e]azepin-5-yl)-carbonyl]-2-methoxyphenyl]-2-methyl-5-fluorobenzamide | 1.05 g | C1=CC=CC=2N(CC3=C(CC21)C=CC=C3)C(=O)C3=CC(=C(C=C3)NC(C3=C(C=CC(=C3)F)C)=O)OC | C30H25FN2O3
